US06136823
Synthesis of 8-Chloro-6-fluoro-1-(4-fluoro-3-methoxyphenyl)-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
8-Chloro-6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (160 mg) and an aqueous solution (about 40%; 400 mg) of methylamine were added to pyridine (1,000 mg), and the mixture was stirred at room temperature for 27 hours. The reaction mixture was concentrated under reduced pressure, and ethanol (1 ml) was added to the residue. Deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (145 mg) as a colorless powder

reactant | 8-Chloro-6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 160 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=CC(=C(C=C1)F)OC)C(=O)O)=O)F)F | C17H9ClF3NO4
reactant | methylamine | 400 mg | CN | CH5N
solvent | pyridine | 1,000 mg | N1=CC=CC=C1 | C5H5N
product | 8-Chloro-6-fluoro-1-(4-fluoro-3-methoxyphenyl)-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 145 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=CC(=C(C=C1)F)OC)C(=O)O)=O)F)NC | C18H13ClF2N2O4
